US04916235
Preparation of 4-benzocyclobutenyl-3-nitrophenyl ketone.
8.91 g (48.0 mmol) of 3-nitrobenzoyl chloride was placed in a 500 ml 3 necked round-bottomed flask equipped with a mechanical stirrer, a thermometer and an addition funnel capped with a nitrogen inlet-adaptor. About 200 ml of methylene chloride was added and the resultant colorless solution was subsequently chilled to about -15° C. under nitrogen. A methylene chloride (20 ml) solution of antimony pentachloride (11.05 g, 48.25 mmol) was then added dropwise over a period of 20 minutes. The yellow and homogeneous reaction mixture was allowed to warm up to about 0° C., at which temperature it was continuously stirred for another 30 minutes. Then, it was chilled again to about -20° C. and a methylene chloride (30 ml) solution of benzocyclobutene (5.00 g, 48.0 mmol) was delivered via the addition funnel over a period of about 15 minutes. The reaction mixture slowly became dark and then bright yellow precipitates formed. At the end of the addition, the yellow reaction mixture was stirred at -20° C. for another hour and then allowed to warm up to room temperature on its own. Upon reaching room temperature, the reaction mixture was green and heterogeneous. It was stirred at room temperature overnight. The green reaction mixture was poured into a 2-liter beaker containing about 1000 g of ice cubes. The mixture was then stirred vigorously until all the ice melted. Two layers appeared; the methylene chloride layer was dark green and the aqueous layer was white and opaque. The methylene chloride solution was separated from the aqueous layer via a separatory funnel. The aqueous phase was subsequently extracted with two portions (30 ml) of methylene chloride. The combined extract was dried over anhydrous magnesium sulfate. After the removal of the drying agent by suction/filtration, the filtrate was concentrated to about 30 ml and passed through a small chromatography column containing about 50 g of silica gel saturated with hexane. The column was then eluted with 1:1 methylene chloride/hexane. Upon removal of the solvent from the first fractions, the desired product was isolated as a yellow solid. Yield: 11.0 g (90%). Anal Calc. for C15H11NO3 ;C, 71.13; H, 4.38; N, 5.53. Found: C, 70.67; H, 4.51; N, 5.52. IR(KBr pellet): ν(CO) at 1646 cm-1 vs; ν(NO2) at 1534 cm-1 and 1350 cm-1 vs. Proton NMR (CDCl3, δ in ppm): 3.30 (singlet, alicyclic protons, 4H); 7.17-7.32, 7.57-7.89, 8.14-8.65 (multiplet, aromatic protons, 7H).

reactant | 3-nitrobenzoyl chloride | 48.0 mmol, 8.91 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | antimony pentachloride | 48.25 mmol, 11.05 g | [Sb](Cl)(Cl)(Cl)(Cl)Cl
reactant | benzocyclobutene | 48.0 mmol, 5.00 g | C1CC=2C1=CC=CC2 | C8H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-benzocyclobutenyl-3-nitrophenyl ketone | C1(=CC2=C1C=CC=C2)C2=C(C=C(C=C2)C(=O)C2=CC(=C(C=C2)C2=CC1=C2C=CC=C1)[N+](=O)[O-])[N+](=O)[O-] | C29H16N2O5
